US07504403B2
[3-(2-Azidopropyl)-benzyloxy]-tert-butyldimethylsilane:
To a stirring solution of 1-[3-(tert-butyldimethylsilyloxymethyl)-phenyl]-propan-2-ol (130 mg, 0.46 mmol) in THF (1.5 mL) under nitrogen at 0° C. was added diisopropyl azodicarboxylate (140 mg, 0.7 mmol), triphenylphosphine (180 mg, 0.7 mmol), and diphenylphosphoryl azide (190 mg, 0.7 mmol) and the mixture was stirred at 0° C. for 15 min. The mixture was diluted with dichloromethane, washed with water, brine, dried over magnesium sulfate, and purified by flash column chromatography (ethyl acetate/hexanes). 1H NMR (CDCl3) 7.27 (m, 1H), 7.2 (m, 1H), 7.16 (s, 1H), 7.08 (m, 1H), 4.74 (s, 2H), 3.65 (m, 1H), 2.82 (dd, 1H), 2.73 (dd, 1H), 1.25 (d, 3H), 0.94 (s, 9H), 0.10 (s, 6H).

reactant | 1-[3-(tert-butyldimethylsilyloxymethyl)-phenyl]-propan-2-ol | 0.46 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)CC(C)O | C16H28O2Si
reactant | diisopropyl azodicarboxylate | 0.7 mmol, 140 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 0.7 mmol, 180 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diphenylphosphoryl azide | 0.7 mmol, 190 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [3-(2-Azidopropyl)-benzyloxy]-tert-butyldimethylsilane | N(=[N+]=[N-])C(CC=1C=C(CO[Si](C)(C)C(C)(C)C)C=CC1)C | C16H27N3OSi
